US04933355
2-p-Anisidinothiazol-4-ylmethanol
The reaction described in Preparation 15 was repeated, but using 5.0 g of ethyl 2-p-anisidinothiazole-4-carboxylate, 1 5 g of lithium aluminum hydride and 100 ml of anhydrous tetrahydrofuran, giving the title compound as a pale red powder.

reactant | ethyl 2-p-anisidinothiazole-4-carboxylate | 5.0 g | COC1=CC=C(C=C1)NC=1SC=C(N1)C(=O)OCC | C13H14N2O3S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-p-Anisidinothiazol-4-ylmethanol | COC1=CC=C(C=C1)NC=1SC=C(N1)CO | C11H12N2O2S
